US08076326B2
1.3 N-(3-Difluoromethoxy-phenyl)-4-methyl-3-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzenesulfonamide
0.429 g of 3-(difluoromethoxy)-aniline (2.7 mmol) were dissolved in 5 mL of pyridine. 1 g of 4-methyl-3-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzenesulfonylchloride (2.7 mmol) were added slowly at room temperature. After stirring for 16 h at room temperature, the reaction mixture was evaporated several times after addition of toluene. The residue was dissolved in dichloromethane and washed several times with 5% aqueous ammonium chloride. The organic phase was then washed with saturated aqueous sodium chloride, dried over sodium sulphate, filtered, and the solvent evaporated. The crude product was purified via silica gel chromatography using dichloromethane/methanol (0-5%) to yield 0.63 g of product.

reactant | 3-(difluoromethoxy)-aniline | 2.7 mmol, 0.429 g | FC(OC=1C=C(N)C=CC1)F | C7H7F2NO
reactant | 4-methyl-3-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzenesulfonylchloride | 2.7 mmol, 1 g | CC1=C(C=C(C=C1)S(=O)(=O)Cl)N1CCN(CC1)C(C(F)(F)F)=O | C13H14ClF3N2O3S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-Difluoromethoxy-phenyl)-4-methyl-3-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzenesulfonamide | 0.63 g | FC(OC=1C=C(C=CC1)NS(=O)(=O)C1=CC(=C(C=C1)C)N1CCN(CC1)C(C(F)(F)F)=O)F | C20H20F5N3O4S
